US09388197B2
A.1.2.2. 2-Amino-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylic acid
A mixture of methyl 2-amino-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate (52 mg, 0.24 mmol) and LiOH.H2O (12 mg, 0.29 mmol) in THF/MeOH/H2O (2.5 mL, 3:1:1) was stirred at RT for 2 h. The mixture was neutralized with aq. HCl and conc. in vacuo. The crude yellow solid was used without any further purification.

reactant | methyl 2-amino-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylate | 0.24 mmol, 52 mg | NC=1SC2=C(N1)CCCC2C(=O)OC | C9H12N2O2S
reactant | LiOH.H2O | 0.29 mmol, 12 mg | O[Li].O
reactant | HCl | Cl | ClH
solvent | THF MeOH H2O | 2.5 mL | C1CCOC1.CO.O
product | 2-Amino-4,5,6,7-tetrahydrobenzo[d]thiazole-7-carboxylic acid | NC=1SC2=C(N1)CCCC2C(=O)O | C8H10N2O2S
